* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020007640463720097
Fd1_1 0 s1 V1 1.0003820231860048
Gr1_1_1 0 s1 x1_a1 0 -797413347005722.4
Gr2_1_1 0 s1 x2_a1 0 1067887210047750.0
Gr3_1_1 0 s1 x3_a1 0 -1.3337896068592242e+16
Gr4_re_1_1 0 s1 x4_re_a1 0 -4088502776373354.0
Gr4_im_1_1 0 s1 x4_im_a1 0 -453901530365874.6
Gr5_1_1 0 s1 x5_a1 0 4.131811706188099e+19
Gr6_re_1_1 0 s1 x6_re_a1 0 -3.3497392105354256e+19
Gr6_im_1_1 0 s1 x6_im_a1 0 -7.813282738461006e+19
Gr7_re_1_1 0 s1 x7_re_a1 0 1.11988024506871e+20
Gr7_im_1_1 0 s1 x7_im_a1 0 9.224620349514568e+19
Gr8_re_1_1 0 s1 x8_re_a1 0 -4.605657785961174e+19
Gr8_im_1_1 0 s1 x8_im_a1 0 3.851997493091613e+19
Gr9_re_1_1 0 s1 x9_re_a1 0 -9.962499300270203e+19
Gr9_im_1_1 0 s1 x9_im_a1 0 -3.4327580618721178e+19
Gr10_re_1_1 0 s1 x10_re_a1 0 4.806449831542102e+19
Gr10_im_1_1 0 s1 x10_im_a1 0 -3.994108338332368e+19
Gr11_re_1_1 0 s1 x11_re_a1 0 9.336445068393228e+19
Gr11_im_1_1 0 s1 x11_im_a1 0 -2.276129884793694e+19
Gr12_re_1_1 0 s1 x12_re_a1 0 4.118559701505728e+19
Gr12_im_1_1 0 s1 x12_im_a1 0 -1.1695856614408489e+19
Gr13_re_1_1 0 s1 x13_re_a1 0 -1.399679864358612e+20
Gr13_im_1_1 0 s1 x13_im_a1 0 -4.844254104136361e+17
Gr14_re_1_1 0 s1 x14_re_a1 0 3.8959424222087173e+18
Gr14_im_1_1 0 s1 x14_im_a1 0 -3.628252039477492e+18
Gd1_2 0 s1 p2 0 9.726920339224606e-07
Fd1_2 0 s1 V2 4.8634601696123036e-05
Gr1_1_2 0 s1 x1_a2 0 -36657377093592.766
Gr2_1_2 0 s1 x2_a2 0 49291141209865.49
Gr3_1_2 0 s1 x3_a2 0 -656230463620872.6
Gr4_re_1_2 0 s1 x4_re_a2 0 -208940236475136.5
Gr4_im_1_2 0 s1 x4_im_a2 0 -40090687281073.45
Gr5_1_2 0 s1 x5_a2 0 2.203420186547369e+18
Gr6_re_1_2 0 s1 x6_re_a2 0 -1.7136416717254948e+18
Gr6_im_1_2 0 s1 x6_im_a2 0 -4.2521734843688494e+18
Gr7_re_1_2 0 s1 x7_re_a2 0 5.968463309702585e+18
Gr7_im_1_2 0 s1 x7_im_a2 0 5.01978049266893e+18
Gr8_re_1_2 0 s1 x8_re_a2 0 -2.6001947306740813e+18
Gr8_im_1_2 0 s1 x8_im_a2 0 2.1024003170167153e+18
Gr9_re_1_2 0 s1 x9_re_a2 0 -5.409852086799768e+18
Gr9_im_1_2 0 s1 x9_im_a2 0 -1.8595535766616822e+18
Gr10_re_1_2 0 s1 x10_re_a2 0 2.7022290374964905e+18
Gr10_im_1_2 0 s1 x10_im_a2 0 -2.16578862146577e+18
Gr11_re_1_2 0 s1 x11_re_a2 0 5.152818359397247e+18
Gr11_im_1_2 0 s1 x11_im_a2 0 -1.2332339502222884e+18
Gr12_re_1_2 0 s1 x12_re_a2 0 2.278677502527367e+18
Gr12_im_1_2 0 s1 x12_im_a2 0 -6.330874827465609e+17
Gr13_re_1_2 0 s1 x13_re_a2 0 -7.686085418176206e+18
Gr13_im_1_2 0 s1 x13_im_a2 0 -2.603282006598941e+16
Gr14_re_1_2 0 s1 x14_re_a2 0 2.0640634346463075e+17
Gr14_im_1_2 0 s1 x14_im_a2 0 -1.9588891610411834e+17
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.0608718952045195e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.156538252683443e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.009338437311663e-12
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.5601718591040475e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 143834328713.11993
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -143834328713.11993
Rp4_im_im_a1 0 x4_im_a1 2.5601718591040475e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.8990018777315828e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.103495306083758e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 50664752694.40562
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -50664752694.40562
Rp6_im_im_a1 0 x6_im_a1 1.103495306083758e-09
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 3.2141606726769364e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 45987650369.190475
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -45987650369.190475
Rp7_im_im_a1 0 x7_im_a1 3.2141606726769364e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 2.580840136994247e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 40946806112.2183
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -40946806112.2183
Rp8_im_im_a1 0 x8_im_a1 2.580840136994247e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.6471470467870336e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 34087946019.883656
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -34087946019.883656
Rp9_im_im_a1 0 x9_im_a1 1.6471470467870336e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 2.5060346493783544e-09
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 27057073340.528168
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -27057073340.528168
Rp10_im_im_a1 0 x10_im_a1 2.5060346493783544e-09
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 8.72506655229064e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 21499638724.288036
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -21499638724.288036
Rp11_im_im_a1 0 x11_im_a1 8.72506655229064e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 7.422396892284545e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 17392797552.276573
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -17392797552.276573
Rp12_im_im_a1 0 x12_im_a1 7.422396892284545e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 6.630337073364585e-08
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 7176641288.916751
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -7176641288.916751
Rp13_im_im_a1 0 x13_im_a1 6.630337073364585e-08
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 2.5239040092422254e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 12606184522.337914
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -12606184522.337914
Rp14_im_im_a1 0 x14_im_a1 2.5239040092422254e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 9.726920339224606e-07
Fd2_1 0 s2 V1 4.8634601696123036e-05
Gr1_2_1 0 s2 x1_a1 0 -36656551163379.086
Gr2_2_1 0 s2 x2_a1 0 49290014289537.91
Gr3_2_1 0 s2 x3_a1 0 -656211661467822.6
Gr4_re_2_1 0 s2 x4_re_a1 0 -208933549525612.75
Gr4_im_2_1 0 s2 x4_im_a1 0 -40087949497147.78
Gr5_2_1 0 s2 x5_a1 0 2.2033418115843564e+18
Gr6_re_2_1 0 s2 x6_re_a1 0 -1.7135866881821944e+18
Gr6_im_2_1 0 s2 x6_im_a1 0 -4.252015192099358e+18
Gr7_re_2_1 0 s2 x7_re_a1 0 5.968251299250517e+18
Gr7_im_2_1 0 s2 x7_im_a1 0 5.019593666367702e+18
Gr8_re_2_1 0 s2 x8_re_a1 0 -2.6000904014772055e+18
Gr8_im_2_1 0 s2 x8_im_a1 0 2.1023215638927002e+18
Gr9_re_2_1 0 s2 x9_re_a1 0 -5.409651667121757e+18
Gr9_im_2_1 0 s2 x9_im_a1 0 -1.8594850520945843e+18
Gr10_re_2_1 0 s2 x10_re_a1 0 2.702121491651418e+18
Gr10_im_2_1 0 s2 x10_im_a1 0 -2.165708636531934e+18
Gr11_re_2_1 0 s2 x11_re_a1 0 5.15262077350694e+18
Gr11_im_2_1 0 s2 x11_im_a1 0 -1.23318848511999e+18
Gr12_re_2_1 0 s2 x12_re_a1 0 2.2785896780335278e+18
Gr12_im_2_1 0 s2 x12_im_a1 0 -6.330641920573249e+17
Gr13_re_2_1 0 s2 x13_re_a1 0 -7.68579377855696e+18
Gr13_im_2_1 0 s2 x13_im_a1 0 -2.603187760976686e+16
Gr14_re_2_1 0 s2 x14_re_a1 0 2.0639910965245818e+17
Gr14_im_2_1 0 s2 x14_im_a1 0 -1.958817504196402e+17
Gd2_2 0 s2 p2 0 0.020000750260975697
Fd2_2 0 s2 V2 1.0000375130487849
Gr1_2_2 0 s2 x1_a2 0 -630988104194613.0
Gr2_2_2 0 s2 x2_a2 0 840173210614171.0
Gr3_2_2 0 s2 x3_a2 0 -9342637279503382.0
Gr4_re_2_2 0 s2 x4_re_a2 0 -2636794167268405.5
Gr4_im_2_2 0 s2 x4_im_a2 0 126419217930478.58
Gr5_2_2 0 s2 x5_a2 0 2.4597524398445765e+19
Gr6_re_2_2 0 s2 x6_re_a2 0 -2.165113806960186e+19
Gr6_im_2_2 0 s2 x6_im_a2 0 -4.441319006665073e+19
Gr7_re_2_2 0 s2 x7_re_a2 0 6.670122727632111e+19
Gr7_im_2_2 0 s2 x7_im_a2 0 5.245605402801001e+19
Gr8_re_2_2 0 s2 x8_re_a2 0 -2.3985932577340703e+19
Gr8_im_2_2 0 s2 x8_im_a2 0 2.1746811971374096e+19
Gr9_re_2_2 0 s2 x9_re_a2 0 -5.693057963886623e+19
Gr9_im_2_2 0 s2 x9_im_a2 0 -1.9733248177170838e+19
Gr10_re_2_2 0 s2 x10_re_a2 0 2.52934164526786e+19
Gr10_im_2_2 0 s2 x10_im_a2 0 -2.290234048075244e+19
Gr11_re_2_2 0 s2 x11_re_a2 0 5.139125225294879e+19
Gr11_im_2_2 0 s2 x11_im_a2 0 -1.3073936158872758e+19
Gr12_re_2_2 0 s2 x12_re_a2 0 2.253219927751538e+19
Gr12_im_2_2 0 s2 x12_im_a2 0 -6.732180880245552e+18
Gr13_re_2_2 0 s2 x13_re_a2 0 -7.798139595945355e+19
Gr13_im_2_2 0 s2 x13_im_a2 0 -2.8327928947448118e+17
Gr14_re_2_2 0 s2 x14_re_a2 0 2.3393922340181903e+18
Gr14_im_2_2 0 s2 x14_im_a2 0 -2.1003189852768428e+18
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.0608718952045195e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.156538252683443e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.009338437311663e-12
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.5601718591040475e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 143834328713.11993
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -143834328713.11993
Rp4_im_im_a2 0 x4_im_a2 2.5601718591040475e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.8990018777315828e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.103495306083758e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 50664752694.40562
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -50664752694.40562
Rp6_im_im_a2 0 x6_im_a2 1.103495306083758e-09
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 3.2141606726769364e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 45987650369.190475
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -45987650369.190475
Rp7_im_im_a2 0 x7_im_a2 3.2141606726769364e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 2.580840136994247e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 40946806112.2183
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -40946806112.2183
Rp8_im_im_a2 0 x8_im_a2 2.580840136994247e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.6471470467870336e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 34087946019.883656
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -34087946019.883656
Rp9_im_im_a2 0 x9_im_a2 1.6471470467870336e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 2.5060346493783544e-09
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 27057073340.528168
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -27057073340.528168
Rp10_im_im_a2 0 x10_im_a2 2.5060346493783544e-09
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 8.72506655229064e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 21499638724.288036
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -21499638724.288036
Rp11_im_im_a2 0 x11_im_a2 8.72506655229064e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 7.422396892284545e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 17392797552.276573
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -17392797552.276573
Rp12_im_im_a2 0 x12_im_a2 7.422396892284545e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 6.630337073364585e-08
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 7176641288.916751
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -7176641288.916751
Rp13_im_im_a2 0 x13_im_a2 6.630337073364585e-08
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 2.5239040092422254e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 12606184522.337914
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -12606184522.337914
Rp14_im_im_a2 0 x14_im_a2 2.5239040092422254e-09
.ENDS s_equivalent
